US07453010B2
A solution of 4.5 g of ethyl trans-(4-{4-[benzyl(tert-butoxycarbonyl)amino]cyclohexyl}-phenoxy)acetate (9.6 mmol) in a mixture of trifluoroacetic acid (30 ml) and dichloromethane (90 ml) is stirred for 2 h. The solvents are evaporated under reduced pressure and then water, ethyl acetate and a saturated aqueous sodium carbonate solution are added. The organic phase is washed once with water and dried over sodium sulfate. Ethyl trans-{4-[4-(benzylamino)cyclohexyl]phenoxy}acetate is obtained in the form of an oil (3.22 g, 88%) after evaporation of the solvents under reduced pressure. [M+H+]=368.3

reactant | ethyl trans-(4-{4-[benzyl(tert-butoxycarbonyl)amino]cyclohexyl}-phenoxy)acetate | 9.6 mmol, 4.5 g | C(C1=CC=CC=C1)N([C@@H]1CC[C@H](CC1)C1=CC=C(OCC(=O)OCC)C=C1)C(=O)OC(C)(C)C | C28H37NO5
solvent | trifluoroacetic acid | 30 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 90 ml | ClCCl | CH2Cl2
product | Ethyl trans-{4-[4-(benzylamino)cyclohexyl]phenoxy}acetate | C(C1=CC=CC=C1)N[C@@H]1CC[C@H](CC1)C1=CC=C(OCC(=O)OCC)C=C1 | C23H29NO3
